US07816405B2
5-Chloro-2-[[(2S)-2-hydroxy-3-(trityloxy)propyl]oxy]benzonitrile
To a diglyme (1.1 L) solution of 5-chloro-2-hydroxybenzonitrile (the compound of Reference Example 1; 270 g, 1.8 mol) and (2S)-2-[(trityloxy)methyl]oxirane (465 g, 1.47 mol) was added potassium tert-butoxide (33 g, 0.29 mol) at room temperature, followed by stirring the reaction mixture at 105° C. for 23 hours. The reaction mixture was cooled with ice, to which toluene (2 L) and a 1N sodium hydroxide aqueous solution (1.35 L) were then added to separate an organic layer. The organic layer was washed 3 times each sequentially with the 1N sodium hydroxide aqueous solution (1.35 L) and warm water (3 L), followed by vacuum concentration. Toluene (3 L) was added to the concentrate, to dissolved it, followed by cooling and filtering the precipitated crystal to obtain 590 g of the title compound (yield: 85%).

reactant | 5-chloro-2-hydroxybenzonitrile | ClC=1C=CC(=C(C#N)C1)O | C7H4ClNO
reactant | (2S)-2-[(trityloxy)methyl]oxirane | 1.47 mol, 465 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@H]1OC1 | C22H20O2
reactant | potassium tert-butoxide | 0.29 mol, 33 g | CC(C)([O-])C.[K+]
reactant | sodium hydroxide | 1N, 1.35 L | [OH-].[Na+]
solvent | toluene | 2 L | C1(=CC=CC=C1)C | C7H8
solvent | diglyme | 1.1 L | COCCOCCOC | C6H14O3
product | 5-Chloro-2-[[(2S)-2-hydroxy-3-(trityloxy)propyl]oxy]benzonitrile | 590 g, yield: 85% | ClC=1C=CC(=C(C#N)C1)OC[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C29H24ClNO3
